US09290490B2
A solution of trimethylsulfoxium iodide (506 mg, 2.297 mmol) and potassium tert-butoxide (258 mg, 2.297 mmol) in dimethylsulfoxide (6 mL) was stirred for 1.5 hours and then transferred via syringe to a solution of methyl (3E)-2,2-dimethyl-5-oxohex-3-enoate (340 mg, 1.998 mmol) in tetrahydrofuran (6 mL). The reaction mixture was stirred for 14 hours and then partitioned between diethyl ether (25 mL) and a 5:1 v:v mixture of water:saturated aqueous sodium bicarbonate solution (12 mL). The layers were separated and the aqueous layer was extracted with diethyl ether (20 mL, 10 mL). The combined organics were washed with water (3×10 mL) and brine (10 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure to afford methyl 2-(2-acetylcyclopropyl)-2-methylpropanoate which was carried on without further purification. MS ESI calc'd. for C10H17O3 [M+H]+ 185. found 185.

reactant | iodide | 2.297 mmol, 506 mg | [I-]
reactant | potassium tert-butoxide | 2.297 mmol, 258 mg | CC(C)([O-])C.[K+]
reactant | methyl (3E)-2,2-dimethyl-5-oxohex-3-enoate | 1.998 mmol, 340 mg | CC(C(=O)OC)(\C=C\C(C)=O)C | C9H14O3
solvent | dimethylsulfoxide | 6 mL | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | methyl 2-(2-acetylcyclopropyl)-2-methylpropanoate | C(C)(=O)C1C(C1)C(C(=O)OC)(C)C | C10H16O3
